US08097628B2
(c) Title compound: 5,6-Dimethyl-3-pyridinecarbaldehyde
To a solution of (5,6-dimethyl-3-pyridinyl)methanol (105 mg, 0.765 mmol) in DCM (4 ml), MnO2 (532 mg, 6.12 mmol) was added. After stirring overnight, an excess of MnO2 (333 mg, 3.83 mmol) was added and then the mixture was stirred for 3 h more. The reaction mixture was filtrated and evaporated to afford 51 mg of title compound.

reactant | (5,6-dimethyl-3-pyridinyl)methanol | 0.765 mmol, 105 mg | CC=1C=C(C=NC1C)CO | C8H11NO
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 6.12 mmol, 532 mg | O=[Mn]=O
catalyst | MnO2 | 3.83 mmol, 333 mg | O=[Mn]=O
product | 5,6-Dimethyl-3-pyridinecarbaldehyde | 51 mg | CC=1C=C(C=NC1C)C=O | C8H9NO
